US07585868B2
A solution of 5-Benzyloxy-1-BOC-indole-2-boronic acid (303 mg, 0.83 mmol) in EtOH (3.3 ml) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 0.33 mmol) in DME (12 ml). Pd(PPh3)4 (30 mg, 0.03 mmol) and saturated Na2CO3 (1.9 ml) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by silica gel column chromatography [EtOAc-hexanes, 5:95] to yield BA24. ESI-MS (M+H)+ m/z calcd 499.2, found 499.2.

reactant | 5-Benzyloxy-1-BOC-indole-2-boronic acid | 0.83 mmol, 303 mg | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)B(O)O | C20H22BNO5
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.33 mmol, 100 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3.3 ml | CCO | C2H6O
solvent | DME | 12 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 2-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-5-(benzyloxy)-1H-indole-1-carboxylate | NC1=C2C(=NC=N1)N(N=C2C=2N(C1=CC=C(C=C1C2)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)C(C)C | C28H30N6O3
